US04430339
(b) 6-(2-Cyclohexylethoxy)-2-methylenehexanoic acid ethyl ester
11.2 g of 6-(2-cyclohexylethoxy)-2-methylenehexanoic acid ethyl ester, in the form of a nearly colourless oil, which is purified by chromatography on silica gel (migrating agent: 9:1 petroleum ether/ethyl acetate), are obtained by the procedure described in Example 1b from 16.5 g of [4-(2-cyclohexylethoxy)-butyl]-malonic acid ethyl ester, 1.97 g of paraformaldehyde, 12 ml of pyridine and 0.7 ml of piperidine.

reactant | [4-(2-cyclohexylethoxy)-butyl]-malonic acid ethyl ester | 16.5 g | C(C)OC(C(C(=O)O)CCCCOCCC1CCCCC1)=O | C17H30O5
reactant | paraformaldehyde | 1.97 g | C=O | CH2O
reactant | piperidine | 0.7 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 6-(2-Cyclohexylethoxy)-2-methylenehexanoic acid ethyl ester | C(C)OC(C(CCCCOCCC1CCCCC1)=C)=O | C17H30O3
